US08222281B2
(15A) Ethyl 3-hydroxy-3-(4-nitrophenyl)propionate
Ethyl acetate (3.55 g, 40.3 mmol) was dissolved in tetrahydrofuran (100 mL), and a 1 M lithium bis(trimethylsilyl)amide hexane solution (40.0 mL, 40.0 mmol) was added thereto at −78° C., and then, the resulting mixture was stirred under a nitrogen atmosphere at −78° C. for 20 minutes. Thereafter, a tetrahydrofuran solution of 4-nitrobenzaldehyde (5.08 g, 33.6 mmol) was added thereto at −78° C., and the resulting mixture was stirred under a nitrogen atmosphere at −78° C. for 30 minutes. To the reaction solution, a saturated aqueous solution of ammonium chloride was added at −78° C., and the organic matter was extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride solution, then dried over anhydrous magnesium sulfate and filtered. Then, the solvent was distilled off under reduced pressure, whereby a crude product was obtained. This crude product was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 20:80 (v/v)), whereby the objective title compound was obtained as a colorless oily substance (4.31 g, yield: 54%).

reactant | Ethyl acetate | 40.3 mmol, 3.55 g | C(C)(=O)OCC | C4H8O2
reactant | lithium bis(trimethylsilyl)amide hexane | 40.0 mmol, 1 M, 40.0 mL | CCCCCC.C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-nitrobenzaldehyde | 33.6 mmol, 5.08 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | Ethyl 3-hydroxy-3-(4-nitrophenyl)propionate | yield: 54% | OC(CC(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C11H13NO5
